US05922751
A mixture of 2-(3-cyclopentyloxy-4-methoxyphenyl)-4-trifluoromethyl-imidazole (1.04 g, 3.18 mmol) and 5% aqueous ammonium hydroxide (300 ml) was heated to reflux for 24 hours. The reaction mixture was cooled and carefully neutralised with acetic acid. The mixture was extracted with methylene chloride (3×150 ml) and the volatiles removed in vacuo to afford the crude product. Flash chromatography (SiO2 ; EtOAc:hexane (2:3)) produced the 2-(3-cyclopentyloxy-4-methoxyphenyl)-4-cyanoimidazole (320 mg, 35%) as a pale yellow solid.

reactant | 2-(3-cyclopentyloxy-4-methoxyphenyl)-4-trifluoromethyl-imidazole | 3.18 mmol, 1.04 g | C1(CCCC1)OC=1C=C(C=CC1OC)C=1NC=C(N1)C(F)(F)F | C16H17F3N2O2
reactant | ammonium hydroxide | 300 ml | [OH-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2-(3-cyclopentyloxy-4-methoxyphenyl)-4-cyanoimidazole | 320 mg, 35% | C1(CCCC1)OC=1C=C(C=CC1OC)C=1NC=C(N1)C#N | C16H17N3O2
